US09388185B2
4-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-3-yl)morpholine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]morpholine (from Small Molecules). LCMS calculated for C25H28N5O3 (M+H)+: m/z=446.2. Found 446.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]morpholine | CC1(OB(OC1(C)C)C=1C=C(C=NC1)N1CCOCC1)C | C15H23BN2O3
product | 4-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-3-yl)morpholine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=C(C=NC3)N3CCOCC3)C=C(C1)OC | C25H27N5O3
